US07709511B2
a) tert-Butyl 3-[2-(4-bromophenyl)ethoxy]propanoate
2-(4-Bromophenyl)ethanol (5 g) was treated with benzyltrimethylammonium hydroxide (Triton B®) (0.3 mL) and the resultant mixture was stirred in vacuo for 30 minutes. The mixture was then cooled to 0° C. and treated with t-butyl acrylate (3.5 g). The reaction was warmed to room temperature and stirred for 5 hours. The mixture was filtered through aluminium oxide (15 g) eluting with ether (75 mL). The collected filtrate was concentrated and purified by flash chromatography eluting with ethylacetate:iso-hexane (1:8) to give the sub-titled compound (5.42 g) as an oil.

reactant | 2-(4-Bromophenyl)ethanol | 5 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | benzyltrimethylammonium hydroxide | 0.3 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | t-butyl acrylate | 3.5 g | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | tert-Butyl 3-[2-(4-bromophenyl)ethoxy]propanoate | 5.42 g | BrC1=CC=C(C=C1)CCOCCC(=O)OC(C)(C)C | C15H21BrO3
